US07906511B2
2-Acetylamino-4-chloromethylpyrimidine (Reference Compound No. 11-1)
Thionyl chloride (0.18 mL, 2.4 mmol) was added to a suspension of 2-acetylamino-4-hydroxymethylpyrimidine (290 mg, 1.7 mmol, Reference Compound No. 4-3) in anhydrous methylene chloride (10 mL) at room temperature, and the mixture was stirred for 30 minutes. The solvent was evaporated under reduced pressure, then water (50 mL) and ethyl acetate (100 mL) were added thereto and the mixture was separated into the organic layer and the aqueous layer, and the aqueous layer was extracted twice with ethyl acetate (50 mL). The whole organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give 68 mg of the title Reference Compound as a yellow solid (Yield: 18%).

reactant | Thionyl chloride | 2.4 mmol, 0.18 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-acetylamino-4-hydroxymethylpyrimidine | C(C)(=O)NC1=NC=CC(=N1)CO | C7H9N3O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Acetylamino-4-chloromethylpyrimidine | Yield: 18% | C(C)(=O)NC1=NC=CC(=N1)CCl | C7H8ClN3O
